US09145407B2
N-(2,4-Dimethoxybenzyl)-5-fluoropyrimidin-2-amine
2-Chloro-5-fluoropyrimidine (4.05 g, 30.6 mmol), 2,4-dimethoxybenzylamine (5.0 mL, 31 mmol) and triethylamine (3.72 g, 36.7 mmol) were stirred in ethanol (200 mL) and heated at 50° C. for 48 hours. The cooled reaction mixture was poured into water and extracted with ethyl ether (×2). The combined organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (hexanes to ethyl acetate gradient elution) then triturated with ethyl ether:hexanes. The solid was collected by filtration and dried in vacuo to afford the title compound as a white solid (4.16 g).

reactant | 2-Chloro-5-fluoropyrimidine | 30.6 mmol, 4.05 g | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | 2,4-dimethoxybenzylamine | 31 mmol, 5.0 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | triethylamine | 36.7 mmol, 3.72 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-(2,4-Dimethoxybenzyl)-5-fluoropyrimidin-2-amine | 4.16 g | COC1=C(CNC2=NC=C(C=N2)F)C=CC(=C1)OC | C13H14FN3O2
